US07501421B2
Preparation of 7-Amino-3H-benzoxazole-2-thione
A solution of KOH (0.875 g, 15.6 mmol) in EtOH (14.3 mL) and water (2.6 mL) was treated with carbon disulfide (0.828 g, 10.9 mmol), followed by of 2,6-diaminophenol (1.50 g, 12.1 mmol). The mixture was heated at reflux temperature for 3 h, concentrated, neutralized with 1M HCl to pH 7, and extracted with EtOAc. The extracts were combined, dried over Na2SO4 and concentrated in vacuo to afford the title compound (0.90 g, 45%), characterized by NMR and mass spectral analyses.

reactant | KOH | 15.6 mmol, 0.875 g | [OH-].[K+]
reactant | carbon disulfide | 10.9 mmol, 0.828 g | C(=S)=S | CS2
reactant | 2,6-diaminophenol | 12.1 mmol, 1.50 g | NC1=C(C(=CC=C1)N)O | C6H8N2O
solvent | EtOH | 14.3 mL | CCO | C2H6O
solvent | water | 2.6 mL | O | H2O
product | 7-Amino-3H-benzoxazole-2-thione | 0.90 g, 45% | NC1=CC=CC=2NC(OC21)=S | C7H6N2OS
